US04719298
2-(1-chloroethyl)-pyridine
A solution of 107.16 g (1 mole) of 2-ethyl-pyridine in 400 ml of ethylene chloride was heated at reflux while adding in portions 150 g (0.65 mole) of trichloroisocyanuric acid (min. 90% available chlorine) over 5 hours and the mixture was stirred for another 2 hours and then cooled and vacuum filtered. The filtrate was washed with 50 ml of 5% of potassium hydroxide, dried over MgSO4 and evaporated to dryness.

reactant | 2-ethyl-pyridine | 1 mole, 107.16 g | C(C)C1=NC=CC=C1 | C7H9N
reactant | trichloroisocyanuric acid | 0.65 mole, 150 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | ethylene chloride | 400 ml | C(CCl)Cl | C2H4Cl2
product | 2-(1-chloroethyl)-pyridine | ClC(C)C1=NC=CC=C1 | C7H8ClN
